US07553973B2
Step 4: 7-Bromo-4-(4-fluorophenyl)-6-methyl-2H-chromen-2-one
(4-Bromo-2-hydroxy-5-methylphenyl)(4-fluorophenyl)methanone (1.61 g, 5.21 mmol) and methyl(triphenylphosphoranylidene)acetate (2.26 g, 6.77 mmol) were heated in refluxing toluene (15 mL) for 24 h. The reaction mixture was allowed to cool to rt and concentrated. The yellow solid obtained was subjected to column chromatography on silica gel (EtOAc-toluene, 0% to 2%) to afford the title compound. 1H NMR (500 MHz, acetone-d6): δ 7.70 (s, 1H), 7.66 (m, 2H), 7.46 (s, 1H), 7.39 (m, 2H), 6.39 (s, 1H), 2.40 (s, 3H).

reactant | (4-Bromo-2-hydroxy-5-methylphenyl)(4-fluorophenyl)methanone | 5.21 mmol, 1.61 g | BrC1=CC(=C(C=C1C)C(=O)C1=CC=C(C=C1)F)O | C14H10BrFO2
reactant | methyl(triphenylphosphoranylidene)acetate | 6.77 mmol, 2.26 g | COC(C=P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=O | C21H19O2P
solvent | toluene | 15 mL | C1(=CC=CC=C1)C | C7H8
product | 7-Bromo-4-(4-fluorophenyl)-6-methyl-2H-chromen-2-one | BrC1=C(C=C2C(=CC(OC2=C1)=O)C1=CC=C(C=C1)F)C | C16H10BrFO2
